US06599890B1
4′-Fluorobiphenylsulfonyl chloride
Chlorosulfonic acid (8.7 mL, 0.13 mole) was added dropwise to stirred cold (0° C.) 4-fluorobiphenyl (10.2 g, 59 mmol). After 30 minutes at 0° C. the reaction mixture was poured onto ice. The resulting white precipitate was collected by filtration and dissolved in chloroform. The chloroform solution was washed with water, brine, dried over magnesium sulfate, and concentrated to afford a white solid. The desired 4′-fluorobiphenylsulfonyl chloride (4.3 g), was separated from 4′-fluorobiphenylsulfonic acid by crystallization of the latter from ethyl acetate and crystallization of the remaining material from hexanes.

reactant | Chlorosulfonic acid | 0.13 mole, 8.7 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-fluorobiphenyl | 59 mmol, 10.2 g | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
product | 4′-Fluorobiphenylsulfonyl chloride | FC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl | C12H8ClFO2S
